US04028379
1-Methylthio-1-methylamino-2-nitroethylene
A solution in methanol (100 ml) of methylamine (9.4 g) was added dropwise over 10 minutes to a stirred solution in methanol (500 ml) at 25°-30° of 1-methylsulphinyl-1-methylthio-2-nitroethylene (18.1 g). T.L.C. analysis indicated immediate complete disappearance of the sulphoxide. Evaporation of the reaction mixture yielded an oily solid which, on recrystallisation from isopropanol gave the title product (8.1 g) m.p. 113°-113.5°.

reactant | methylamine | 9.4 g | CN | CH5N
reactant | 1-methylsulphinyl-1-methylthio-2-nitroethylene | 18.1 g | CS(=O)C(=C[N+](=O)[O-])SC | C4H7NO3S2
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 500 ml | CO | CH4O
product | 1-Methylthio-1-methylamino-2-nitroethylene | 8.1 g | CSC(=C[N+](=O)[O-])NC | C4H8N2O2S
